US07576094B2
A solution of 6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline] (1.12 g), 1,2-dibromoethane (2 mL) and Cs2CO3 (3.16 9) in DMF (7 mL) was heated in a bath of 110° C. for 6 hours. The mixture was cooled, water was added, and extracted with dichloromethane. The organic phase was then washed with brine, dried and evaporated. The residue was passed through a column (Hexane/EtOAc, 10:0.6) to give 1′-(2-bromoethyl)-6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline] which was then added NaN3 (1.1 g) and dissolved in dichloromethane (7 mL). After heating the solution in a bath of 90° C. for 1 hour, the mixture was cooled, mixed with water and extracted with dichloromethane. The organic phase was washed with brine, dried and evaporated. The residue was passed through a column (Hexane/EtOAc, 10:0.5-10:0.6) to give 1′-(2-azidoethyl)-6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline] (340 mg) as an oil. 1′-(2-azidoethyl)-6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline] (340 mg) was dissolved in methanol (7 mL) and ethylacetate to which 50 mg Pd/C (10%) was added. The flask was then flushed evacuated and flushed with hydrogen. Under a balloon of hydrogen for 1 hour, the mixture was filtered and evaporated to give 2-(6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline]-1′-yl)ethanamine (278 mg) as an oil. 1H-NMR (300 MHz, C2D6O) δ=6.414 (s, 1H); 3.77 (s, 3H); 3.52 (s, 2H); 3.16-2.92 (m, 4H); 2.81 (s, 2H); 2.18 (s, 3H); 2.12 (s, 3H); 2.03-1.86 (m, 4H); 1.84-1.64 (m, 2H) ppm.

reactant | 6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline] | 1.12 g | COC=1C=C2CC3(CNC2=C(C1C)C)CCC3 | C15H21NO
reactant | 1,2-dibromoethane | 2 mL | BrCCBr | C2H4Br2
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 1′-(2-bromoethyl)-6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline] | BrCCN1CC2(CC3=CC(=C(C(=C13)C)C)OC)CCC2 | C17H24BrNO
